US05206375
15.3 parts of phosphoryl trichloride are added to a mixture of 14 parts of 2-amino-3-cyano-4-hydroxythiophene, 7.9 parts of pyridine and 70 parts of tetrahydrofuran, and the mixture is then heated at the boil for 1 hour. After cooling, the mixture is poured onto water and left to stand overnight, and the precipitate is filtered off under suction, washed with water and dried. 9.4 parts (60% of theory) of 2-amino-4-chloro-3-cyanothiophene are obtained.

reactant | phosphoryl trichloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-amino-3-cyano-4-hydroxythiophene | NC=1SC=C(C1C#N)O | C5H4N2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-amino-4-chloro-3-cyanothiophene | 60% | NC=1SC=C(C1C#N)Cl | C5H3ClN2S
